US05972978
Example 14 2-Methylsulfanyl-5-naphthalen-2-yl-[1,3,4]thiadiazole
To a solution of 5-naphthalen-2-yl-3H-[1,3,4]thiadiazole-2-thione (2.8 g, 11.5 mmol) in methanol (100 ml) was added dropwise 1 N sodium hydroxide (12 ml, 12 mmol) at 0° C. After stirred for 10 min. at 0° C. iodomethane (2.0 g, 13.8 mmol) was added dropwise and stirring was continued at 0° C. for 5 min. and at room temperature for 2 h. The volatiles were evaporated in vacuo and to the residue was added water (100 ml). The precipitate was filtered off and dried in vacuo at 50° C. The dried compound (2.4 g) was recrystallised from ethyl acetate (60 ml) affording after drying in vacuo at 50° C. 0.7 g (23%) of the title compound as a solid.

reactant | 5-naphthalen-2-yl-3H-[1,3,4]thiadiazole-2-thione | 11.5 mmol, 2.8 g | C1=C(C=CC2=CC=CC=C12)C1=NNC(S1)=S | C12H8N2S2
reactant | sodium hydroxide | 12 mmol, 1 N, 12 ml | [OH-].[Na+]
reactant | iodomethane | 13.8 mmol, 2.0 g | IC | CH3I
solvent | methanol | 100 ml | CO | CH4O
product | 2-Methylsulfanyl-5-naphthalen-2-yl-[1,3,4]thiadiazole | CSC=1SC(=NN1)C1=CC2=CC=CC=C2C=C1 | C13H10N2S2
